US05939451
2.0 g (0.011 mol) of (4,6-dichloropyrimidin-2-yl)-ethylamine and 5.67 g (0.022 mol) of N-(4-sulfamoyl-phenyl)-acetamide potassium salt were stirred in 10 ml of 1-methyl-2-pyrrolidone at 140° C. for 8 hours. Then, the solvent was distilled off in a high vacuum, the residue was partitioned in ethyl acetate/water, the inorganic phase was saturated with sodium chloride and the residual ethyl acetate dissolved in the aqueous phase was distilled off on a rotary evaporator. The aqueous phase was made acid with 1N HCl, the crystals which separated were filtered off under suction and washed with water. After drying there were obtained 2.88 g (75%) of N-[4-(6-chloro-2-ethylamino-pyrimidin-4-ylsulfamoyl)-phenyl]-acetamide as beige crystals, which were used directly in the next step.

reactant | (4,6-dichloropyrimidin-2-yl)-ethylamine | 0.011 mol, 2.0 g | ClC1=NC(=NC(=C1)Cl)NCC | C6H7Cl2N3
reactant | N-(4-sulfamoyl-phenyl)-acetamide potassium salt | 0.022 mol, 5.67 g | [K].S(N)(=O)(=O)C1=CC=C(C=C1)NC(C)=O
solvent | 1-methyl-2-pyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | N-[4-(6-chloro-2-ethylamino-pyrimidin-4-ylsulfamoyl)-phenyl]-acetamide | 2.88 g, 75% | ClC1=CC(=NC(=N1)NCC)NS(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C14H16ClN5O3S
